US06969730B2
3-(2-bromoethyl)-6-hydroxy-4-methyl-2H-chromen-2-one
To a solution of resorcinol (7.03 g, 64.0 mmol) in a solution consisting of HBr (104 mL, 422 mmol) and glacial acetic acid (10 mL) at 0° C. was slowly added 2-acetylbutyrolactone (5.8 mL, 54 mmol). The mixture was warmed to ambient temperature and then heated to reflux for 2 hours. The mixture was cooled to ambient temperature and diluted with water (350 mL). The mixture was filtered and the solid dried in vacuo overnight to give the titled compound (15.5 g, 85%). 1H NMR (300 MHz, CD3OD) δ 10.5 (s, 1H), 7.6 (d, J=8.7 Hz, 1H), 6.8 (dd, J=6.6 Hz, 11.4 Hz, 1H), 6.7 (d, J=2.1 Hz, 1H), 3.6 (t, J=7.5 Hz, 2H), 3.1 (t, J=7.6 Hz, 2H), 2.4 (s, 3H); MS (DCI) m/z 283, 284 (M+H)+;

reactant | resorcinol | 64.0 mmol, 7.03 g | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | HBr | 422 mmol, 104 mL | Br | BrH
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | 2-acetylbutyrolactone | 54 mmol, 5.8 mL | C(C)(=O)C1C(=O)OCC1 | C6H8O3
solvent | water | 350 mL | O | H2O
product | 3-(2-bromoethyl)-6-hydroxy-4-methyl-2H-chromen-2-one | 15.5 g, 85% | BrCCC=1C(OC2=CC=C(C=C2C1C)O)=O | C12H11BrO3
